Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amaryl / Glyburide / Lantus / Norvasc / Zestril
 
Attending: ___.
 
Chief Complaint:
Altered mental status.
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
This is an ___ yo woman who was brought from home by her daughter 
with AMS starting ___ manifested as decreased responsiveness, 
scratching at her face. History largely obtained from daughter 
and records as pt has no complaints, denies pain, fevers, 
chills, sob, cough, dysuria, chest pain, abdominal pain, nausea, 
vomitting, diarrhea, constipation. Per her daughter (___) Ms. 
___ was doing well over this past summer (volunteering, 
reading in Church, playing games with family, using a walker 
with ambualtion but able to tour the House ___, 
etc.) while living with ___. She returned to ___ (where 
she lives in the ___ with her other daughter in ___. 
Shortly thereafter she was diagnosed with UTI that progressed to 
pylonephritis, for which she was hospitalized. During that 
hospitalization several of her cardiac medications were d/c'd 
(was on a regimen for systolic heart failure). After discharge 
she continued to 'failure to thrive' and in ___ was briefly 
admitted with ? left wrist pain/infection that 'was nothing.' By 
___ ___ wanted to set up ___ to help at home as she was 
concerned. When the ___ went out to meet her ___ they 
immediately recommended she go to the hospital for evaluation. 
She was admitted for AMS, UTI, and thought to have dementia, for 
which she was recommended to have psychiatric admission (?) but 
ended up going to rehab. She was started on zyprexa, ativan, 
aricept, and a sleeping pill. Her daughter requested these meds 
be stopped in rehab and her MS rapidly improved. She was able to 
leave the rehab on ___ (d/c'd there on ___ and travelled 
back to ___ on ___. She has been doing well here, 
recognizing people, interested in checking her bank acount, 
starting to read the paper again, bathing herself. Her appetite 
has been poor, and she has not been sleeping well ('restless' at 
night). She has not had any discrete physical complaints, no 
fevers. On ___ she was acutely worse, with decreased 
responsiveness. Her daughter noticed that she seemed better 
after 500cc ivf in the ED though.

In the ED: VS: 97.5 60 179/73 20 99% on RA. She was given 500cc 
NS, aspirin 325mg and levofloxacin 750mg iv.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
DM, type II
hypertension
CAD s/p CABG
PVD s/p bypass
atrial fibrilation, recently discontinued coumadin due to falls
CVA
SSS s/p pacer placement
hypothyroidism
hyperlipidemia
aortic stenosis, 'severe' per records from ___
osteoarthritis
h/o heart failure, TTE in ___ with EF of 55%-60% as of ___
s/p hysterectomy
hypercalcemia, noted on admit in ___ ___, thought due to 
'immobility' but did not improve with ivf and holding lasix (?), 
was treated with pamidronate infusion
facial rash: per pmd in ___ 'contact dermatitis' starting in 
___, treated with steroid taper x2 with no improvement
 
Social History:
___
Family History:
Several siblings with CAD, sister with ___, 
hyperlipidemia.
 
Physical Exam:
VS: HR 97 BP 160/88 RR 20 Sat 98% RA
Gen: Elderly woman in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes slightly dry, no ulcerations or exudates
Neck: no thyromegally, JVD: to jaw
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present
Extremities: 1+ PE bilateral lower extremities, no cyanosis, 
clubbing, joint swelling
Neurological: Alert and oriented x person, unable to say days of 
week backwards, CN II-XII intact, speech fluent
Integument: Erythematous, scaling rash on face, otherwise warm, 
moist
Psychiatric: pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
.
On discharge
Vitals: 96.8  156/65  60  18  95%RA
Pain: denies
Access: PIV
Gen: nad, elderly female, more awake
HEENT: mm dry
CV: RRR, ___ SM USB and RUSB
Resp: CTAB, +basilar crackles
Abd; soft, nontender, +BS
Ext; trace b/l edema
Neuro: A&OX3, much improved from admission
Skin: stable rash on face
psych: calm, pleasant
 
Pertinent Results:
no leukocytosis
hgb 15-->13 after fluids
INR 1.6->1.7
BUN/Creat ___ (baseline) bicarb 21  
Ca ___ stable (11 corrected)  albumin 3.2
ICa 1.26
AST/ALT: 112/46->85/45  tbili 1.3  alkphos 86
TSH 3.6
B12 1232
Trop <0.01
BNP 6242
.
Blood cX NTD
UCx NTD
.
.
Imaging/results: 
Head CT ___: 
1. No acute intracranial hemorrhage. 
2. Extensive chronic small vessel ischemic disease, with left 
frontal lobe encephalomalacia, likely sequela from prior 
infarction.   
If there is high clinical concern for an acute infarct, an MRI 
is recommended.   
NOTE ON ATTENDING REVIEW:   
There are multiple hypodense areas noted in the cerebral white 
matter; the left frontal lobe hypodense area is likely related 
to chronic infarct given the low attenuation. However, 
associated acute infarct in this location/elesewhere cnnot be 
excluded. Pt. has pacemaker and cannot have MRI.Hence, follwo up 
CT can be considered to assess stability given the lack of prior 
studies. 
.
CXR pa/lat ___: Mild cardiomegaly, with mild fluid 
overload
.
ECG: V-paced (67), no acute st-t changes, similar to prior from 
___.

OSH records from ___ ___ (discharge):
wbc 6.5, hct 39.9, plt 243, folate 18.4, vitamin b12 1289, crt 
1.3, bun 21, albumin 2.9, ast 53, alt 38, ap 124, ca ___ (11.8 
on admit), TSH 6.54; urine cx ___ >100,000 mixed flora

TTE from ___: EF 55-60%, paradoxical septal motion, Mild AR, 
Severe AS (valve area 0.9 cm2), peak gradient 42mmHg, mean 
gradient 22mmHg, moderate pulmonary htn, severe TR.

 
Brief Hospital Course:
___ year old female with h/o DM, CAD/CABG, Afib/SSS s/p PPM, 
severe AS, chronic dCHF, vascular dementia, admitted with acute 
confusion and lethargy that started evening of admission. Had 
some improvement with IVf in ER. No infectious cause found, CT 
head with old strokes but nothing obviously acute (couldnt get 
MRI due to PPM), TSH/B12/labs all otherwise okay except for mild 
hyperCa to 11.5 on admission which improved with IVFs. Most 
likely due to combinition of volume depletion in setting of 
severe AS causing decreased cerebral perfusion and mild hyperCa 
which may be symptomatic in this elderly patient. Her MS did 
improved over a couple days back to near baseline. She is 
instructed to drink ___ glasses of water every day. her HCTZ is 
stopped. If over time, dCHF becomes an issue due to her severe 
AS, can add small dose of lasix (also calciuric) while 
maintaining her fluid intake. Also noted to have AM hypoglycemia 
to ___ but per daughter, at time of MS change her sugar was 
okay. Her prandin was stopped as we dont need strict control and 
her sugars remained mostly under 200. Can start with general 
diet at facility  but if sugars>200, change to diabetic diet but 
keep off meds if possible. After ___ and ___, plan was to 
send to rehab for short time. She missed her first appt with Dr. 
___ here. Seen by ___ here. They will call ___ clinic 
once pt is out of rehab. To ___ rehab today in good 
condition
.
see note below for further details. 
.
Altered mental status/Delirium: no infection identified. CT head 
neg (cant get MRI to ___ acute stroke but no other focal neuro 
symptoms). Labs only with mild hyperCalcemia (and ICa is nl) 
which is likely due to volume depletion and HCTZ use. Volume 
depletion may have decreased cerberal perfusion in setting of 
severe AS and pt did improve after hydration, though this may 
have been related to hyperCa. TSH wnl. Vit B12 wnl. Pt has been 
on steroids for a few weeks and tolerated this so unlikely 
related. 
-improved greatly with hydration since admission-near baseline
-ensure ___ of water daily
-prevent hypoglycemia
-cont nonpharm measures, avoid deleriogenic agents, lines, 
tubes, maintain nl sleep wake cycle, frequent re-orientation, 
monitor for constipation, family at bedside as much as possible
- ___ and OT agrees with short term rehab placement
.
DM, type II with complications, controlled: with variable intake 
and AM hypoglycemia even off any meds. Goal sugars <200 given 
high risk of hypoglyemica. 
-d/c prandin
-have SNF check only prelunch and predinner sugars to make sure 
remain mostly <200-dont need aggressive control
-has am sugars in ___ so need to make sure she gets juice upon 
waking up by 7am
-SSI if needed.
.
Hypercalcemia, mild: ___ hyperparathyroidism (PTH 65 in setting 
of hyperCa). Usually should not be causing symptoms at level ___ 
but may for this fragile patient. d/c'd Vit D a few weeks ago. 
Previously on lasix, also stopped in ___.  ICa is normal which 
is reassuring
-PO hydration-8glasses water per day. need to balance chronic 
dCHF 
-hold IVFs to see how she would manage as outpt
-d/c HCTZ
-hold another dose of pamidronate 
.
Aortic stenosis: per TTE in ___ ___ 0.9, no surgical 
intervention per daughter. encourage PO hydration to ensure good 
CO
.
Diastolic heart failure, chronic: CXR and BNP suggestive of pulm 
edema but good O2 sats and otherwise intravasc dry. EF >55% 
recently. 
-monitor off diuretics. daughter understands the ___ of 
increased hydration for hyperCa having risk of CHF-->but if this 
is an issue, would start low dose lasix as also calcicuric (not 
hctz)
.
Hypothyroid: cont. levothyroxine, TSH wnl.
.
CAD, s/p CABG: cont. aspirin, statin. on sotalol for afib
.
Hypertension, benign: doing well. hold hctz as can worsen 
hyperCa.   
.
Atrial fibrilation: with SSS, s/p pacer placement; recently 
discontinued from coumadin due to falls. 
-defer to pcp to discuss long term anticoagulation
-on sotalol
.
coagulopathy: has been off coumadin. suspect nutrition related. 
-vit K X1 given, INR 1.9->1.7
.
Transaminitis: mild. likely in setting of poor perfusion/volume 
depletion. improving on own. alk phos wnl. no abd pain. 
discussed with daughter, will not further w/u at this point. 
.
PVD: cont. aspirin, statin.
.
CKD, stage III: at recent baseline 1.0-1.2, monitor, renally 
dose meds. PO hydration
.
Hyperlipidemia: cont. statin, d/c tricor as not much help at 
this age
.
Facial rash: could be contact dermatitis but unusual 
distribution, unresponsvie to systemic steroids. stopped 
prednisone as due to stop. consider outpatient derm 
consultation.
.
.
DNR/DNI, discussed with daughter (___), HCP. .  
.
.

 
Medications on Admission:
aspirin 81mg daily
levothyroxine 112mcg daily
prandin 0.5mg tid with meals - has been getting daily in am as 
bg low
iron daily
tricor 145mg qhs
lipitor 20mg qhs
hctz 25mg ___ (new medication)
prednisone 10mg daily -> was on taper: 5 days of 20mg, then 5 
days of 10mg, then to stop, currently day 6 of 10 mg
sotalol 80mg bid
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Sotalol 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Atorvastatin 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
7. Cortisone 1 % Cream Sig: One (1) Appl Topical QID (4 times a 
day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
delirium ___ dehydration, mild hypercalcemia
DM with am hypoglycemia
hyperCa ___ hyper PTH
severe AS
 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)
 
Discharge Instructions:
you were admitted for mental status changes. you did not have an 
infection or any acute stroke that was obvious on CT scan. The 
cause of this is most likely dehydration which decreased blood 
flow to your brain and also causes an increased calcium levels 
which can cause confusion and lethargy. You have to drink ___ 
glasses of water every day. Your mental status improved while 
here just with fluids. You also need to have some juice first 
thing in the morning because we noted your sugars were very low 
in the early morning and you would be very tired until you ate. 
Some of your meds are stopped on discharge (prandin, hctz, 
tricor)
you are going to be discharged to rehab. 
 
Followup Instructions:
___